US04775743
3-(4-Hydroxyphenyl)propionic acid (5 g), potassium carbonate (16 g) and tetrahydrofuran (50 ml) were placed in a three-necked flask, 8.5 ml of benzyl bromide was added dropwise through a syringe under stirring, and the mixture was heated under reflux overnight. After filtering off the solid matters, the solvent was distilled off, and the residue was purified by column chromatography on silica gel (50 g), affording 9.25 g (89.3%) of pure benzyl 3-(4-benzyloxyphenyl)propionate.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 5 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 8.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | benzyl 3-(4-benzyloxyphenyl)propionate | 9.25 g, 89.3% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)OCC1=CC=CC=C1 | C23H22O3
